US07022694B2
Step d. Preparation of tert-butyl 6-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
6-Nitro-2,3,4,5-tetrahydro-1H-3-benzazepine (0.51 g, 2.65 mmol) was dissolved in dioxane (4.0 mL) and di-tert-butyl dicarbonate (0.65 g, 3.0 mmol) was added. Once the initial exothermic reaction was over, the solution was heated to 100° C. for 1 hour. The solution was then concentrated and partitioned between EtOAc and water. The organic layer was concentrated to give 0.85 g of an amber oil. Column chromatography (elution with 10–20% EtOAc/heptane) afforded 0.75 g (97%) of the title compound as a clear oil. Crystallization from EtOAc/hexane provided 0.68 g of white crystals: mp 73–76° C.; 1H NMR (400 MHz, CDCl3) δ 7.54 (dd, J=1, 8 Hz, 1 H), 7.34 (d, J=7 Hz, 1 H), 7.24 (t, J=8 Hz, 1 H), 3.66–3.60 (m, 4 H), 3.02–2.99 (m, 4 H), 1.42 (s, 9 H); IR (diffuse reflectance) 1676, 1531, 1468, 1454, 1427, 1366, 1314, 1301, 1267, 1241, 1170, 1108, 948, 807, 739 cm−1; MS (EI) m/z 292 (M+); HRMS (FAB) calcd for C15H20N2O4+H 293.1501. found 293.1498. Anal. Calcd for C15H20N2O4: C, 61.63; H, 6.89; N, 9.58. Found: C, 61.66; H, 6.95; N, 9.55.

reactant | 6-Nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.65 mmol, 0.51 g | [N+](=O)([O-])C1=CC=CC=2CCNCCC21 | C10H12N2O2
reactant | di-tert-butyl dicarbonate | 3.0 mmol, 0.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 6-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.85 g | [N+](=O)([O-])C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C15H20N2O4
